US04410537
(C) 5-(2-Formyl-3-hydroxyphenoxy)pentanoic acid
5-(2-Formyl-3-hydroxy-4-carboxyphenoxy)pentanoic acid (0.2 g, 0.0007 M), acidic alumina (0.1 g), water (10 ml) and dioxane (3 ml) were left at reflux for 4 days. The reaction mixture was cooled, and made alkaline by the addition of sodium hydroxide. The reaction mixture was filtered and the filtrate acidified with concentrated hydrochloric acid. The resulting precipitate was filtered and washed with a little water, then dried in a desiccator over phosphorus pentoxide to give the title compound as a pale-yellow solid, homogeneous on thin layer chromatography.

reactant | 5-(2-Formyl-3-hydroxy-4-carboxyphenoxy)pentanoic acid | 0.0007 M, 0.2 g | C(=O)C1=C(OCCCCC(=O)O)C=CC(=C1O)C(=O)O | C13H14O7
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 5-(2-Formyl-3-hydroxyphenoxy)pentanoic acid | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1O | C12H14O5
